US07932272B2
5-(2-Methylpropenyl)-thiophene-2-carbonitrile
2-Bromo-5-(2-methylpropenyl)-thiophene described in Preparation Example 143 (60 mg, 0.27 mmol) was dissolved in N,N-dimethylformamide (1 mL), copper cyanide (62 mg, 0.69 mmol) was added at 160° C., and the solution was stirred for 2 hours. The reaction solution was cooled, then, concentrated aqueous ammonia (5 mL) was added, and the solution was extracted with diethyl ether (10 mL). The organic layer was washed, dried over anhydrous magnesium sulfate, then, the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5), and the title compound (15 mg, 0.092 mmol, 34%) was obtained as a colorless oil.

reactant | 2-Bromo-5-(2-methylpropenyl)-thiophene | BrC=1SC(=CC1)C=C(C)C | C8H9BrS
reactant | copper cyanide | 0.69 mmol, 62 mg | [Cu](C#N)C#N
reactant | ammonia | 5 mL | N | H3N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 5-(2-Methylpropenyl)-thiophene-2-carbonitrile | 0.092 mmol, 15 mg, 34% | CC(=CC1=CC=C(S1)C#N)C | C9H9NS
